US07312214B2
6-{4-[1,1-dimethyl-2-(2-oxo-1-piperidinyl)ethyl]phenyl}-1-(4-methoxyphenyl)-7-oxo-4,5,6,7-tetrahydro-1H-pyrazolo[3,4-c]pyridine-3-carboxamide
To 6-[4-(1-cyano-1-methylethyl)phenyl]-1-(4-methoxyphenyl)-7-oxo-4,5,6,7-tetrahydro-1H-pyrazolo[3,4-c]pyridine-3-carboxamide (0.17 g, 0.39 mmol) was hydrogenated at 40 psi in ethanol with 0.5 mL conc. HCl and 10% palladium on carbon (25 mg) for 72 h. The reaction was filtered and concentrated. To the amine in THF (5 mL) at 0° C. was added 5-bromovaleryl chloride (99 mg, 0.5 mmol) and TEA (1 mL) and the reaction was stirred 1 h. To the reaction was added potassium t-butoxide (0.24 g, 1.9 mmol) and the reaction was stirred 24 h. The reaction was quenched with water and extracted with ethyl acetate and dried (MgSO4). Purification by HPLC and freeze-drying afforded 15 mg (7.5%). Mass Spec (M+H)+ 516.3.

reactant | 6-[4-(1-cyano-1-methylethyl)phenyl]-1-(4-methoxyphenyl)-7-oxo-4,5,6,7-tetrahydro-1H-pyrazolo[3,4-c]pyridine-3-carboxamide | 0.39 mmol, 0.17 g | C(#N)C(C)(C)C1=CC=C(C=C1)N1C(C2=C(CC1)C(=NN2C2=CC=C(C=C2)OC)C(=O)N)=O | C24H23N5O3
reactant | HCl | 0.5 mL | Cl | ClH
reactant | 5-bromovaleryl chloride | 0.5 mmol, 99 mg | BrCCCCC(=O)Cl | C5H8BrClO
reactant | potassium t-butoxide | 1.9 mmol, 0.24 g | CC(C)([O-])C.[K+]
solvent | ethanol | C(C)O | C2H6O
catalyst | palladium on carbon | 25 mg | [Pd] | Pd
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 6-{4-[1,1-dimethyl-2-(2-oxo-1-piperidinyl)ethyl]phenyl}-1-(4-methoxyphenyl)-7-oxo-4,5,6,7-tetrahydro-1H-pyrazolo[3,4-c]pyridine-3-carboxamide | CC(CN1C(CCCC1)=O)(C)C1=CC=C(C=C1)N1C(C2=C(CC1)C(=NN2C2=CC=C(C=C2)OC)C(=O)N)=O | C29H33N5O4
